US08497270B2
4-chloro-N-methylbutane-1-sulfonamide
To a solution of 4-chlorobutane-1-sulfonyl chloride (117 mmol) and triethyl amine (117 mmol) in dichloro methane (250 ml) at 0° C. was added a 2M solution of methyl amine in THF (117 mmol) dropwise. The mixture was allowed to warm to room temperature with stirring overnight. The organic solution was washed with H2O and extracted with CH2Cl2, dried over MgSO4 and filtered. The solution was concentrated. The product was used without further purification.

reactant | 4-chlorobutane-1-sulfonyl chloride | 117 mmol | ClCCCCS(=O)(=O)Cl | C4H8Cl2O2S
reactant | triethyl amine | 117 mmol | C(C)N(CC)CC | C6H15N
reactant | methyl amine | CN | CH5N
reactant | THF | 117 mmol | C1CCOC1 | C4H8O
solvent | dichloro methane | 250 ml | ClCCl | CH2Cl2
product | 4-chloro-N-methylbutane-1-sulfonamide | ClCCCCS(=O)(=O)NC | C5H12ClNO2S
